US06362178B1
2-[2-Ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride
0.35 g (0.712 mmol) of 2-[2-ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are suspended in 8 ml of ether and dichloromethane is added until a homogeneous solution is formed. 0.8 ml of a 1M solution of HCl in ether is added, and the mixture is stirred at room temperature for 20 minutes and filtered off with suction. This gives 372 mg (99%) of 2-[2-ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride.

reactant | 2-[2-ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.712 mmol, 0.35 g | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)CC)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C23H32N6O4S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | HCl | Cl | ClH
solvent | ether | 8 ml | CCOCC | C4H10O
product | 2-[2-Ethoxy-5-(4-ethyl-piperazine-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride | Cl.C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)CC)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | InChI=1S/C23H32N6O4S.ClH/c1-5-8-20-24-16(4)21-23(30)25-22(26-29(20)21)18-15-17(9-10-19(18)33-7-3)34(31,32)28-13-11-27(6-2)12-14-28;/h9-10,15H,5-8,11-14H2,1-4H3,(H,25,26,30);1H
